### PR TITLE
Add Erdős Problem 718 (edges forcing a subdivision of K_r), link the formal proof

### LINKED ISSUE #6394: Erdős Problem 718
### What is the Erdős problem?

https://www.erdosproblems.com/718

Is there some constant $C>0$ such that any graph on $n$ vertices with $\geq Cr^2n$ edges contains a subdivision of $K_r$?

Status: proved (Komlós–Szemerédi [KoSz96], Bollobás–Thomason [BoTh96]). A formal proof exists in plby/lean-proofs (`Erdos718.erdos_718`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6394.

### What changed
Adds `FormalConjectures/ErdosProblems/718.lean` with `ContainsSubdivision G r` (branch vertices joined by internally disjoint paths, via Mathlib walks):
- `erdos_718` (`research solved`, `answer(True)`): `≥ C r² n` edges force a subdivision of `K_r` (Komlós–Szemerédi, Bollobás–Thomason). Linked to plby/lean-proofs `Erdos718.erdos_718` (Codex and GPT-5.6 Sol; 28 Mathlib-only files, on top of the Erdős 717 linkage development).
- Sorry'd variants: Dirac's `2n - 2` theorem for `K_4`, and Dirac's open `3n - 5` conjecture for `K_5`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos718.erdos_718` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of renamed copies, same axioms (plby packages the subdivision as a structure):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge718

lemma containsSubdivision_of {V : Type} {G : SimpleGraph V} {r : ℕ}
    (h : Erdos718Plby.ContainsCliqueSubdivision G r) : Erdos718.ContainsSubdivision G r := by
  obtain ⟨S⟩ := h
  exact ⟨S.branch, S.path, S.path_isPath, S.interior_avoids_branch, S.interior_pairwise⟩

theorem erdos_718_bridge : type_of% Erdos718.erdos_718 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨C, hC, h⟩ := Erdos718Plby.erdos_718
  exact ⟨C, hC, fun r V _ _ G hG => containsSubdivision_of (h r V G hG)⟩

#print axioms Erdos718Plby.erdos_718
#print axioms erdos_718_bridge

end Bridge718
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«718»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/718.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+def walkInterior {V : Type*} {G : SimpleGraph V} {u v : V} (p : G.Walk u v) : Set V :=
+  {x | x ∈ p.support ∧ x ≠ u ∧ x ≠ v}
+
+/-- `G` contains a subdivision of `K_r`: there are `r` distinct branch vertices and, for each
+pair of them, a path in `G` joining them, such that the interiors of these paths are pairwise
+disjoint and avoid the branch vertices. -/
+def ContainsSubdivision {V : Type*} (G : SimpleGraph V) (r : ℕ) : Prop :=
+  ∃ (b : Fin r ↪ V) (p : ∀ e : {e : Fin r × Fin r // e.1 < e.2}, G.Walk (b e.1.1) (b e.1.2)),
+    (∀ e, (p e).IsPath) ∧ (∀ e, Disjoint (walkInterior (p e)) (Set.range b)) ∧
+      Pairwise fun e f ↦ Disjoint (walkInterior (p e)) (walkInterior (p f))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/718.lean:53]: seems quite general (cf. [#6124](https://github.com/google-deepmind/formal-conjectures/pull/6124)'s cliqueSubdivision), suggest to put it in Subdivision.lean

File: FormalConjectures/ErdosProblems/718.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+  "https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos718.lean#L92"]
+theorem erdos_718 : answer(True) ↔
+    ∃ C : ℝ, 0 < C ∧ ∀ (r : ℕ) (V : Type) [Fintype V] [Nonempty V] (G : SimpleGraph V),
+      C * (r : ℝ) ^ 2 * Fintype.card V ≤ G.edgeSet.ncard → ContainsSubdivision G r := by
+  sorry
+
+/-- Dirac [Di60] proved that every graph on $n$ vertices with at least $2n-2$ edges contains a
+subdivision of $K_4$. -/
+@[category research solved, AMS 5]
+theorem erdos_718.variants.dirac (V : Type) [Fintype V] [Nonempty V] (G : SimpleGraph V)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/718.lean:73]: is this false for `|V| = 1`?

File: FormalConjectures/ErdosProblems/718.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+    (h : 2 * Fintype.card V - 2 ≤ G.edgeSet.ncard) : ContainsSubdivision G 4 := by
+  sorry
+
+/-- Dirac [Di60] conjectured that $3n-5$ edges forces a subdivision of $K_5$. -/
+@[category research open, AMS 5]
+theorem erdos_718.variants.dirac_conjecture : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/718.lean:79]: Is this false for `|V| ≤ 2` (needs `4 ≤ card V`?)
